US06004948
3-(2,4-Dichlorophenoxy)-4-methylsulphonylamino-benzenesulphonic acid N-methylamide
3-(2,4-Dichlorophenoxy)4-methylsulphonylaminobenzene-sulphonic acid chloride N-methylamide (HN-56203) 3-(2,4-dichlorophenoxy)-4-methylsulphonylaminobenzenesulphonic acid chloride (0.56 g, 1.3 mmol) was dissolved in dioxan (15 ml) and at 0° C. it was added dropwise to a solution of methylamine hydrochloride (1.18 g, 17 mmol) in 1N aqueous NaOH (15 ml, 15 mmol) and dioxan (20 ml). The mixture was stirred for 1 hour at 0° C., acidified with 1N HCl and extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and the solvent was evaporated off. The residue was purified by chromatography (silica gel, CH2Cl2 /ethyl acetate 9/1). Yield: 0.25 g=45% 13C (100 MHz, CDCl3) δ 148.35, 146.21, 134.97, 132.03, 131.28, 131.16, 128.98, 127.15, 123.15, 123.12, 119.56, 113.81, 40.45, 29.18

reactant | 3-(2,4-Dichlorophenoxy)4-methylsulphonylaminobenzene-sulphonic acid chloride N-methylamide | C[NH-].ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl
reactant | 3-(2,4-dichlorophenoxy)-4-methylsulphonylaminobenzenesulphonic acid chloride | 1.3 mmol, 0.56 g | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H10Cl3NO5S2
reactant | methylamine hydrochloride | 17 mmol, 1.18 g | Cl.CN
reactant | NaOH | 15 mmol, 1N, 15 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylamino-benzenesulphonic acid N-methylamide | CNS(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)OC1=C(C=C(C=C1)Cl)Cl | C14H14Cl2N2O5S2
